### ISSUE TITLE
fix: parallel multi_attempt temp files lack indentation, causing empty goal results

### ISSUE THREAD

**Issue by LarsenClose** [LarsenClose/rust-lean-mcp#87]
## Bug

The parallel path in `multi_attempt` (`run_snippet_isolated`) constructs temp files without preserving the target line's indentation. Snippets are placed at column 0, which breaks Lean 4's whitespace-sensitive tactic blocks.

## Reproduction

Given a file:
```lean
theorem foo : X := by
  intro h        -- sets block indent to column 2
  sorry          -- target line
```

Non-parallel correctly inserts at column 2:
```lean
  simp [Matrix.ext_iff]   -- ✓ inside by block
```

Parallel constructs a temp file with snippet at column 0:
```lean
theorem foo : X := by
  intro h
simp [Matrix.ext_iff]     -- ✗ column 0, OUTSIDE by block
  sorry
```

Result: empty goals and no diagnostics because the snippet is outside the proof context.

Works when the sorry is the **first** tactic (column 0 sets the block level). Breaks when prior tactics exist at column 2+.

## Root cause

`run_snippet_isolated` at line 378:
```rust
format!("{base_code}\n{snippet_str}\n  sorry")
```

No indentation applied. Additionally, `goal_column` computation (line 443) doesn't account for indentation offset.

## Fix

1. Extract target line's indentation in `handle_multi_attempt_parallel`
2. Pass indent to `run_snippet_isolated`
3. Apply indent to snippet lines and sorry line in temp file
4. Fix `goal_column` to include indent offset
